US06855716B2
Synthesis of methyl [[4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carbonyl]-(3-phenyl-2-propene-1-yl)-amino]acetate
320 mg (1.20 mmol) of 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid was dissolved in 2 ml of DMF. 280 mg (1.20 mmol) of methyl (3-phenyl-2-propene-1-ylamino)acetate and 276 mg (1.44 mmol) of WSC hydrochloride were added to the obtained solution, and they were stirred at room temperature overnight. After the extraction with ethyl acetate, the extract was dried over magnesium sulfate. Ethyl acetate was evaporated under reduced pressure. The residue was purified by the silica gel chromatography (methylene chloride/methanol=200/1 to 50/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 1.20 mmol, 320 mg | ClC=1C=C(C=CC1)C1NC(NC(=C1C(=O)O)C)=O | C12H11ClN2O3
reactant | methyl (3-phenyl-2-propene-1-ylamino)acetate | 1.20 mmol, 280 mg | C1(=CC=CC=C1)C=CCNCC(=O)OC | C12H15NO2
reactant | WSC hydrochloride | 1.44 mmol, 276 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | methyl [[4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carbonyl]-(3-phenyl-2-propene-1-yl)-amino]acetate | ClC=1C=C(C=CC1)C1NC(NC(=C1C(=O)N(CC=CC1=CC=CC=C1)CC(=O)OC)C)=O | C24H24ClN3O4
